US07968573B2
According to the same manner as that of Reference Preparation Example 71-(5), 4,5-dichloro-1-(3-chloro-2-pyridinyl)-1H-pyrrole-2-carboxylic acid and 3-amino-7-bromo-4-chloro-2-naphthoic acid were used in place of 4-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrrole-2-carboxylic acid and 2-amino-5-chloro-3-methylbenzoic acid respectively to obtain 10-chloro-2-[4,5-dichloro-1-(3-chloro-2-pyridinyl)-1H-pyrrol-2-yl]-4H-naphtho[2,3-d][1,3]oxazine-4-one of the formula:

reactant | 4,5-dichloro-1-(3-chloro-2-pyridinyl)-1H-pyrrole-2-carboxylic acid | ClC=1C=C(N(C1Cl)C1=NC=CC=C1Cl)C(=O)O | C10H5Cl3N2O2
reactant | 3-amino-7-bromo-4-chloro-2-naphthoic acid | NC=1C(=CC2=CC(=CC=C2C1Cl)Br)C(=O)O | C11H7BrClNO2
reactant | 4-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrrole-2-carboxylic acid | BrC=1C=C(N(C1)C1=NC=CC=C1Cl)C(=O)O | C10H6BrClN2O2
reactant | 2-amino-5-chloro-3-methylbenzoic acid | NC1=C(C(=O)O)C=C(C=C1C)Cl | C8H8ClNO2
product | 10-chloro-2-[4,5-dichloro-1-(3-chloro-2-pyridinyl)-1H-pyrrol-2-yl]-4H-naphtho[2,3-d][1,3]oxazine-4-one | ClC1=C2C=CC=CC2=CC2=C1N=C(OC2=O)C=2N(C(=C(C2)Cl)Cl)C2=NC=CC=C2Cl | C21H9Cl4N3O2
